US04908348
A yyttrium containing solution was prepared by mixing and reacting yttrium acetate with a stoichiometric excess of 2-ethylhexanoic acid to produce yttrium tri(2-ethylhexanoate) in 2-ethylhexanoic acid. The resulting solution contained 7.01 percent by weight yttrium, based on total weight.

reactant | yttrium acetate | C(C)(=O)[O-].[Y+3].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | 2-ethylhexanoic acid | C(C)C(C(=O)O)CCCC | C8H16O2
product | yttrium tri(2-ethylhexanoate) | C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.[Y+3] | InChI=1S/3C8H16O2.Y/c3*1-3-5-6-7(4-2)8(9)10;/h3*7H,3-6H2,1-2H3,(H,9,10);/q;;;+3/p-3
